US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 1-(1-benzyl-5-methyl-2,4-dioxo-(1H,3H)-pyrimidin-3-ylmethyl)cycloprop-1-ylmethyl methanesulfonate gave 1-benzyl-3-(1-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-ylmethyl}cycloprop-1-ylmethyl)-5-methyl-2,4(1H,3H)-pyrimidinedione as an oil;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 1-(1-benzyl-5-methyl-2,4-dioxo-(1H,3H)-pyrimidin-3-ylmethyl)cycloprop-1-ylmethyl methanesulfonate | CS(=O)(=O)OCC1(CC1)CN1C(N(C=C(C1=O)C)CC1=CC=CC=C1)=O | C18H22N2O5S
product | 1-benzyl-3-(1-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-ylmethyl}cycloprop-1-ylmethyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CC1(CC1)CN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)=O | C29H33F3N4O3
